US05849764
Step 5.1G 2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]-ethyl]-1H-indole-5-carboxylic acid diethylamide dihydrochloride
A solution of 452 mg (0.914 mmol) of 2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]ethyl]-1H-indole-5-carboxylic acid diethylamide in 45 mL of methanol was treated with 1.83 mL (3.66 mmol) of 2N hydrochloric acid. After a few minutes, the solution was evaporated to dryness. The residue was reconcentrated from methanol and then triturated with diethyl ether. The solid was collected on a filter, washed with additional diethyl ether, and dried to give 455 mg (87%) of yellowish powder, mp 154°-157° C. 500 MHz 1H NMR (DMSO-d6) was consistent with the assigned structure.

reactant | 2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]ethyl]-1H-indole-5-carboxylic acid diethylamide | 0.914 mmol, 452 mg | C(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC=NC=C1)CC | C32H40N4O
reactant | hydrochloric acid | 3.66 mmol, 2N, 1.83 mL | Cl | ClH
solvent | methanol | 45 mL | CO | CH4O
product | 2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-4-yl)butylamino]-ethyl]-1H-indole-5-carboxylic acid diethylamide dihydrochloride | Cl.Cl.C(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC=NC=C1)CC | InChI=1S/C32H40N4O.2ClH/c1-5-36(6-2)32(37)26-10-11-30-29(22-26)28(31(35-30)27-20-23(3)19-24(4)21-27)14-18-33-15-8-7-9-25-12-16-34-17-13-25;;/h10-13,16-17,19-22,33,35H,5-9,14-15,18H2,1-4H3;2*1H
